US05629200
To 15 ml of 1N aqueous solution of hydrochloric acid was added 3.38 g of the concentrate of the reaction products containing 15.0 mmol of 2-amino-1-phenylethanol obtained in the same manner as in Example 295. The resultant solution was added with 7.5 ml of 1N sodium hydroxide solution containing 2.10 g of Boc-L-Tyr (7.5 mmol) with stirring slowly to precipitate or crystallize crystals. The crystals were isolated by filtration to give 2.49 g (5.5 mmol) of (R)-2-amino-1-(3-chlorophenyl)ethanol.Boc-L-Tyr salt. The yield relative to (R)-2-amino-1-(3-chlorophenyl)ethanol in the concentrate was 73.4%.

reactant | hydrochloric acid | Cl | ClH
reactant | 2-amino-1-phenylethanol | 15.0 mmol | NCC(O)C1=CC=CC=C1 | C8H11NO
reactant | sodium hydroxide | 1N, 7.5 ml | [OH-].[Na+]
reactant | Boc-L-Tyr | 7.5 mmol, 2.10 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)O)C(=O)OC(C)(C)C | C14H19NO5
product | (R)-2-amino-1-(3-chlorophenyl)ethanol | 5.5 mmol, 2.49 g | NC[C@H](O)C1=CC(=CC=C1)Cl | C8H10ClNO
